US07462600B2
Preparation 21: 5-amino-2-[1,2,4]triazol-1-yl-benzonitrile
5-Nitro-2-[1,2,4]triazol-1-yl-benzonitrile (1.14 g, 5.3 mmol) was dissolved in ethanol (23 mL) and satd. aq. ammonium chloride (5.3 mL) before adding indium powder (3.25 g, 28.2 mmol). The mixture was then refluxed for 3 h, cooled to RT, and the solids filtered (MeOH washed). The filtrate was diluted with water, basified with 1N NaOH (aq), and extracted with EtOAc. The organic layer was dried (Na2SO4), filtered, and concentrated under vacuum to yield the title compound (0.88 g). MS (ESI+) for m/z 186 (M+H)+.

reactant | 5-Nitro-2-[1,2,4]triazol-1-yl-benzonitrile | 5.3 mmol, 1.14 g | [N+](=O)([O-])C=1C=CC(=C(C#N)C1)N1N=CN=C1 | C9H5N5O2
reactant | ammonium chloride | 5.3 mL | [Cl-].[NH4+]
reactant | indium | 28.2 mmol, 3.25 g | [In] | In
solvent | ethanol | 23 mL | C(C)O | C2H6O
product | 5-amino-2-[1,2,4]triazol-1-yl-benzonitrile | 0.88 g | NC=1C=CC(=C(C#N)C1)N1N=CN=C1 | C9H7N5
